US08097759B2
5-Bromo-N-(3,5-dinitrophenyl)-2-hydroxybenzamide (Compound No. 158)
Using 5-bromosalicylic acid and 3,5-dinitroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,5-dinitroaniline | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
product | 5-Bromo-N-(3,5-dinitrophenyl)-2-hydroxybenzamide | Yield: 32.2% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])C1)O | C13H8BrN3O6
